US05068345
Trans-Ethyl 2-Hexadecenoate
IR (thin film) 2920, 2850, 1725, 1465, 1265, 1175, 1045 cm-1 ; 1H NMR (CDCl3, 300 MHz) δ7.00 (dt, 1, J=15.5, 6.8 Hz, CH2CH=), 5.84 (dt, 1, J=15.5, 1.2 Hz, COCH=), 4.21 (dd, 2, J=14.2, 7.2 Hz, CH2O), 2.23 (qd, 2, J=6.9, 1.2 Hz, CH2CH=), 1.49 (t, 2, J=7 Hz, CH2CH2CH3), 1.3 (m, 20, CH2CH2CH2), 0.92 (t, 3, J=7 Hz, CH2CH2CH3). Rf (5% ethyl acetate:hexanes):tetradecanal, 0.29; ester product, 0.31. MS (FD): m/e 282 (M+).

reactant | tetradecanal | C(CCCCCCCCCCCCC)=O | C14H28O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Trans-Ethyl 2-Hexadecenoate | C(\C=C\CCCCCCCCCCCCC)(=O)OCC | C18H34O2
